US08242133B2
A mixture of 5.01 g of a mixture containing 2-chloro-4-(trifluoromethyl)-6-nitrophenol, 15 ml of ethyl acetate and 1.0 g of 5% palladium on carbon was stirred under about one atmosphere of hydrogen at room temperature for 15 hours. The mixture was filtered through Celite™. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2.78 g of 2-amino-6-chloro-4-(trifluoromethyl)phenol.

reactant | 2-chloro-4-(trifluoromethyl)-6-nitrophenol | ClC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])O | C7H3ClF3NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 2-amino-6-chloro-4-(trifluoromethyl)phenol | 2.78 g | NC1=C(C(=CC(=C1)C(F)(F)F)Cl)O | C7H5ClF3NO
